US06180567B2
i-propyl 3-amino-4-chloro-thiophene-2-carboxylate hydrochloride.
11.75 g (50 mmol) of i-propyl 3-amino-4-methyl-thiophene-2-carboxylate hydrochloride are dissolved in 100 ml of water. 150 ml of methylene chloride are added to this solution, and sodium bicarbonate is then added a little at a time until a pH of 7 has been exceeded. The mixture is stirred for 8 hours and the organic phase is separated off, washed with water, dried with magnesium sulphate and filtered. The filtrate is concentrated using water pump vacuum and the amorphous residue is crystallized from petroleum ether.

reactant | i-propyl 3-amino-4-methyl-thiophene-2-carboxylate hydrochloride | 50 mmol, 11.75 g | Cl.NC1=C(SC=C1C)C(=O)OC(C)C
reactant | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 100 ml | O | H2O
product | i-propyl 3-amino-4-chloro-thiophene-2-carboxylate hydrochloride | Cl.NC1=C(SC=C1Cl)C(=O)OC(C)C | InChI=1S/C8H10ClNO2S.ClH/c1-4(2)12-8(11)7-6(10)5(9)3-13-7;/h3-4H,10H2,1-2H3;1H
